US04368251
(c) Synthesis of 2-[2'-(2-Methoxyethoxy)-5'-Aminobenzenesulfonamido]-4-Hexadecyloxy-5-Methylphenol
32 g of 2-[2'-(2-methoxyethoxy)nitrobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol was added to 300 ml of isopropyl alcohol together with 24 g of iron dust, 12 g of tri-iron tetroxide, 0.6 g of ammonium chloride, and 25 ml of water, and refluxed for 1 hour on a steam bath under stirring. After completion of the stirring, the mixture was hot-filtered and, after cooling the mother liquor, crystals thus formed were collected by filtration, washed with 50 ml of isopropyl alcohol, and air-dried. Yield: 23 g; m.p. 142° to 144° C.

reactant | 2-[2'-(2-methoxyethoxy)nitrobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol | 32 g | COCCOC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)NC1=C(C=C(C(=C1)OCCCCCCCCCCCCCCCC)C)O | C32H50N2O8S
reactant | isopropyl alcohol | 300 ml | C(C)(C)O | C3H8O
reactant | ammonium chloride | 0.6 g | [Cl-].[NH4+]
catalyst | iron | 24 g | [Fe] | Fe
catalyst | tri-iron tetroxide | 12 g | [O-2].[O-2].[O-2].[O-2].[Fe+2].[Fe+2].[Fe+2]
solvent | water | 25 ml | O | H2O
product | 2-[2'-(2-Methoxyethoxy)-5'-Aminobenzenesulfonamido]-4-Hexadecyloxy-5-Methylphenol | COCCOC1=C(C=C(C=C1)N)S(=O)(=O)NC1=C(C=C(C(=C1)OCCCCCCCCCCCCCCCC)C)O | C32H52N2O6S
